* C:\Nerd Projects\ChuaEncrypt\Simulations\LTSpice\Chua.asc
* Generated by LTspice 24.1.10 for Windows.
X§U1 y2 N031 +Vcc -Vcc N030 ADTL082 ;§pnba In+)In-)V+)V-)OUT
X§U2 N037 N031 +Vcc -Vcc z2 ADTL082 ;§pnba In+)In-)V+)V-)OUT
X§U3 x2 N034 +Vcc -Vcc N026 ADTL082 ;§pnba In+)In-)V+)V-)OUT
X§U4 x2 N035 +Vcc -Vcc N027 ADTL082 ;§pnba In+)In-)V+)V-)OUT
X§U5 x2 Chua_Out_2 +Vcc -Vcc Chua_Out_2 ADTL082 ;§pnba In+)In-)V+)V-)OUT
R1 x2 N026 220 tol=1
R2 N026 N034 220 tol=1
R3 N034 0 2.2k
R4 N027 x2 22k tol=1
R5 N027 N035 22k tol=1
R7 y2 z2 100 tol=1
R8 z2 N031 1k tol=1
R9 N031 N030 1k tol=1
C1 x2 0 10nF
C3 N030 N037 100nF
R10 N037 0 2k tol=1
R11 x2 y2 2k tol=1
C2 y2 0 100nF
C4 +Vcc 0 .1µ
V1 -Vcc 0 -9v
C5 -Vcc 0 .1µ
V2 +Vcc 0 9v
R6 N035 0 3.3k
X§U6 y N029 +Vcc -Vcc N028 ADTL082 ;§pnba In+)In-)V+)V-)OUT
X§U7 N036 N029 +Vcc -Vcc z ADTL082 ;§pnba In+)In-)V+)V-)OUT
X§U8 x N032 +Vcc -Vcc N024 ADTL082 ;§pnba In+)In-)V+)V-)OUT
X§U9 x N033 +Vcc -Vcc N025 ADTL082 ;§pnba In+)In-)V+)V-)OUT
X§U10 x Chua_Out +Vcc -Vcc Chua_Out ADTL082 ;§pnba In+)In-)V+)V-)OUT
R12 x N024 220 tol=1
R13 N024 N032 220 tol=1
R14 N032 0 2.2k
R15 N025 x 22k tol=1
R16 N025 N033 22k tol=1
R17 y z 100 tol=1
R18 z N029 1k tol=1
R19 N029 N028 1k tol=1
C6 x 0 10nF
C7 N028 N036 100nF
R20 N036 0 2.5k tol=1
R21 x y 2k tol=1
C8 y 0 100nF
R22 N033 0 3.3k
X§U11 NC_01 x +Vcc -Vcc x ADTL082 ;§pnba In+)In-)V+)V-)OUT
R23 x2 x 1
X§U12 0 N006 +Vcc -Vcc N007 ADTL084 ;§pnba In+)In-)V+)V-)OUT
X§U13 N008 N005 +Vcc -Vcc Decrypt ADTL084 ;§pnba In+)In-)V+)V-)OUT
X§U14 0 N001 +Vcc -Vcc InvChua2 ADTL084 ;§pnba In+)In-)V+)V-)OUT
R24 N007 N006 10k
R25 N006 Audio_In 10k
R26 N006 N009 10k
R27 Decrypt N005 10k
R28 N008 N007 10k
R29 InvChua2 N001 10k
R30 N001 N002 10k
R31 InvChua2 N005 10k
R32 N008 0 10k
V3 Audio_In 0 SINE(0 200m 1k)
X§U15 Audio_In N003 +Vcc -Vcc N004 ADTL082 ;§pnba In+)In-)V+)V-)OUT
R33 N004 N003 100k
R34 0 N003 10k
D1 N004 Arduino_A0 D
C9 Arduino_A0 0 10µ
R35 Arduino_A0 0 100k
R36 N009 Chua_Out 100k
R37 0 N009 4.7k
R38 N002 Chua_Out_2 100k
R39 0 N002 4.7k
C10 N018 N020 10n
R44 N015 N018 320
R48 N020 0 320
C11 N020 0 10n
R49 N019 0 47k
R50 N015 N019 100k
X§U17 N020 N019 +Vcc -Vcc N015 ADTL082 ;§pnba In+)In-)V+)V-)OUT
D2 NC_02 NC_03 D
X§U16 N010 0 N013 0 -Vcc 0 Carrier-Chua1 +Vcc AD633 ;§pnba 1)2)3)4)5)6)7)8
R40 N010 carrier 10k
R41 N010 0 10k
R42 N013 Chua_Out 10k
R43 N013 0 10k
X§U18 N011 0 N014 0 -Vcc 0 Carrier-Chua2 +Vcc AD633 ;§pnba 1)2)3)4)5)6)7)8
R45 N011 carrier 10k
R46 N011 0 10k
R47 N014 Chua_Out_2 10k
R51 N014 0 10k
X§U19 N015 carrier +Vcc -Vcc carrier ADTL082 ;§pnba In+)In-)V+)V-)OUT
X§U20 Carrier-Chua1 0 Audio_In 0 -Vcc 0 Encrypted-Multi +Vcc AD633 ;§pnba 1)2)3)4)5)6)7)8
X§U21 Gain-Encrypted-Multi 0 Carrier-Chua2 0 -Vcc 0 Decrypted-Multi +Vcc AD633 ;§pnba 1)2)3)4)5)6)7)8
X§U22 Encrypted-Multi N012 +Vcc -Vcc Gain-Encrypted-Multi ADTL082 ;§pnba In+)In-)V+)V-)OUT
R52 Gain-Encrypted-Multi N012 147k
R53 N012 0 1k
X§U23 Decrypted-Multi N016 +Vcc -Vcc Gain-Decrypted-Multi ADTL082 ;§pnba In+)In-)V+)V-)OUT
R54 Gain-Decrypted-Multi N016 47k
R55 N016 0 1k
X§U24 N021 Sallen-Low +Vcc -Vcc Sallen-Low ADTL082 ;§pnba In+)In-)V+)V-)OUT
R57 N021 N017 8.2k
C12 Sallen-Low N017 0.001µ
C13 0 N021 0.001µ
R56 N017 Gain-Decrypted-Multi 8.2k
X§U25 N023 Filter-Decrypt-Audio +Vcc -Vcc Filter-Decrypt-Audio ADTL082 ;§pnba In+)In-)V+)V-)OUT
R58 Filter-Decrypt-Audio N022 32k
R59 0 N023 32k
C14 N023 N022 10n
C15 N022 Sallen-Low 10n
.model D D
.lib C:\Users\Justin Nguyen\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 0 10 0 .001
.step param X 100 2.5k 300
* AD633 Analog Multiplier Macro Model
* Description: Amplifier
* Generic Desc: Bipolar, Multiplier, 4 Quadrant
* Developed by: AAG/PMI
* Revision History: 09/15/2014 - Input resistors nodes connection change (RX1A & RY1A)
* 08/10/2012 - Updated to new header style
* 1.0 (12/1993)
* Copyright 1993, 2012 by Analog Devices
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html for License Statement. Use of this model
* indicates your acceptance of the terms and provisions in the License Statement.
*
* BEGIN Notes:
*
* Not Modeled:
*
* Parameters modeled include:
*
* END Notes
*
* Node assignments
*             X1
*             |  X2
*             |  |  Y1
*             |  |  |  Y2
*             |  |  |  |  VNEG
*             |  |  |  |  |  Z
*             |  |  |  |  |  |  W
*             |  |  |  |  |  |  |  VPOS
*             |  |  |  |  |  |  |  |
.SUBCKT AD633 1  2  3  4  5  6  7  8
*
EREF 100 0 POLY(2) 8 0 5 0 (0,0.5,0.5)
*
* X-INPUT STAGE & POLE AT 15 MHz
*
IBX1 1 0 DC 8E-7
IBX2 2 0 DC 8E-7
EOSX 10 1 POLY(1) (16,100) (5E-3,1)
RX1A 1 11 5E6
RX1B 11 2 5E6
*
GX 100 12 10 2 1E-6
RX 12 100 1E6
CX 12 100 1.061E-14
VX1 8 13 DC 3.05
DX1 12 13 DX
VX2 14 5 DC 3.05
DX2 14 12 DX
*
* COMMON-MODE GAIN NETWORK WITH ZERO AT 560 Hz
*
ECMX 15 100 11 100 10
RCMX1 15 16 1E6
CCMX 15 16 2.8421E-10
RCMX2 16 100 1
*
* Y-INPUT STAGE & POLE AT 15 MHz
*
IBY1 3 0 DC 8E-7
IBY2 4 0 DC 8E-7
EOSY 20 3 POLY(1) (26,100) (5E-3,1)
RY1A 3 21 5E6
RY1B 21 4 5E6
*
GY 100 22 20 4 1E-6
RY 22 100 1E6
CY 22 100 1.061E-14
VY1 8 23 DC 3.05
DY1 22 23 DX
VY2 24 5 DC 3.05
DY2 24 22 DX
*
* COMMON-MODE GAIN NETWORK WITH ZERO AT 560 Hz
*
ECMY 25 100 21 100 10
RCMY1 25 26 1E6
CCMY 25 26 2.8421E-10
RCMY2 26 100 1
*
* Z-INPUT STAGE & POLE AT 15 MHz
*
IBZ1 7 0 DC 8E-7
IBZ2 6 0 DC 8E-7
RZ1 7 6 10E6
*
GZ 100 32 7 6 1E-6
RZ2 32 100 1E6
CZ 32 100 1.061E-14
VZ1 8 33 DC 3.05
DZ1 32 33 DX
VZ2 34 5 DC 3.05
DZ2 34 33 DX
*
* 50-MHz MULTIPLIER CORE & SUMMER
*
GXY 100 40 POLY(2) (12,100) (22,100) (0,0,0,0,0.1E-6)
RXY 40 100 1E6
CXY 40 100 3.1831E-15
*
* OP AMP INPUT STAGE
*
VOOS 59 40 DC 5E-3
Q1 55 32 60 QX
Q2 56 59 61 QX
R1 8 55 3.1831E4
R2 60 54 3.1313E4
R3 8 56 3.1831E4
R4 61 54 3.1313E4
I1 54 5 1E-4
*
* GAIN STAGE & DOMINANT POLE AT 316.23 Hz
*
G1 100 62 55 56 3.141637E-5
R5 62 100 1.0066E8
C3 62 100 5E-12
V1 8 63 DC 4.3399
D1 62 63 DX
V2 64 5 DC 4.3399
D2 64 62 DX
*
* NEGATIVE ZERO AT 20 MHz
*
ENZ 65 100 62 100 1E6
RNZ1 65 66 1
FNZ 65 66 VNC -1
RNZ2 66 100 1E-6
ENC 67 0 65 66 1
CNZ 67 68 7.9577E-9
VNC 68 0 DC 0
*
* POLE AT 4 MHz
*
G2 100 69 66 100 1E-6
R6 69 100 1E6
C2 69 100 3.9789E-14
*
* OP AMP OUTPUT STAGE
*
FSY 8 5 POLY(2) VZC1 VZC2 (2.8286E-3,1,1)
RDC 8 5 28E3
GZC 100 73 72 69 11.623E-3
VZC1 74 100 DC 0
DZC1 73 74 DX
VZC2 100 75 DC 0
DZC2 75 73 DX
VSC1 70 72 0.695
DSC1 69 70 DX
VSC2 72 71 0.695
DSC2 71 69 DX
GO1 72 8 8 69 11.623E-3
RO1 8 72 86
GO2 5 72 69 5 11.623E-3
RO2 72 5 86
LO 72 7 1E-7
*
* MODELS USED
*
.MODEL QX NPN(BF=1E4)
.MODEL DX D(IS=1E-15)
.ENDS AD633
.lib ADI.lib
.lib ADTL084.lib
.backanno
.end
